US06248740B1
Production of 2-[6-[4-[4-(diphenylmethyl)piperazino]butyl] imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid
482 mg of ethyl 2-[6-[4-[4-(diphenylmethyl)piperazino] butyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate was dissolved in 2 ml of ethanol; 1.8 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by thermal refluxing for 1 hour. After cooling, the mixture was concentrated under reduced pressure; the residue was diluted with water and ajusted to pH 5 by the addition of 1 N hydrochloric acid. Ethyl acetate was added to cause crystallization; the crystal precipitated was washed with water-acetone (2:1) and dried to yield 386 mg of the title compound.

reactant | ethyl 2-[6-[4-[4-(diphenylmethyl)piperazino] butyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 482 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=CC=C2 | C33H41N5O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-[6-[4-[4-(diphenylmethyl)piperazino]butyl] imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid | 386 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C)C2=CC=CC=C2 | C31H37N5O2
